US08202858B2
4-[(Cyclopropyl-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-amino)-methyl]-piperidine-1-carboxylic Acid Tert-butyl Ester
PyBroP (238 mg, 0.51 mmol) was added to a solution of 3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionic acid from Example E45 (200 mg, 0.51 mmol) and 4-cyclopropylaminomethyl-piperidine-1-carboxylic acid tert-butyl ester (130 mg, 0.51 mmol) in dichloromethane (10 ml) and DIEA (0.18 ml, 1.02 mmol). The mixture was stirred for 4 days at room temperature, diluted with EtOAc, washed with 5% KHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 5% methanol:95% dichloromethane) to yield the title compound (235 mg, 73%).

reactant | PyBroP | 0.51 mmol, 238 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | 3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionic acid | CC1=C(C=CC(=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)CCC(=O)O | C22H22N4O3
reactant | 4-cyclopropylaminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.51 mmol, 130 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1CC1 | C14H26N2O2
reactant | DIEA | 1.02 mmol, 0.18 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[(Cyclopropyl-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-amino)-methyl]-piperidine-1-carboxylic Acid Tert-butyl Ester | 235 mg, 73% | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O)C2CC2 | C36H46N6O4
